US07148230B2
4-(3-Chloro-2-fluoroanilino)-6-[1-(hydroxyacetyl)piperidin-4-yloxy]-7-methoxyquinazoline
4-(3-Chloro-2-fluoroanilino)-7-methoxy-6-(piperidin-4-yloxy)-quinazoline dihydrochloride ethanol solvate (91.8 g), 4-(dimethylamino)pyridine (73.3 g) and acetonitrile (330 ml) were stirred at 20° C. to 25° C., under nitrogen. Acetoxyacetyl chloride (28 ml) was added maintaining the temperature at less than 30° C., followed by an acetonitrile line wash (37 ml). The reaction mixture was stirred at ambient for 60 minutes before water (250 ml) and 47% w/w sodium hydroxide solution (77.2 ml) were added followed by a water line wash (25 ml), keeping the temperature at less than 30° C. The reaction mixture was stirred at ambient for 120 minutes before the lower aqueous layer was separated. Water (735 ml) was added to the organic layer and mixture stirred at ambient until a solid crystallised. The solid was filtered, washed with a 50% aqueous acetonitrile (2×90 ml), and then dried in a vacuum oven between 50° C. and 55° C. to give the title product (65.8 g; 83.9% yield); melting point 195.5–196.5° C.; NMR Spectrum: (DMSO d6) 1.64–1.83 (m, 2H); 1.98–2.14 (m 2H); 3.28–3.48 (m, 1H); (m, 2H); 3.57–3.67 (m, 1H); 3.81–3.92 (m, 1H); 4.00 (s 3H); 4.14 (s, 2H); 4.81 (m 1H); 7.27 (s 1H); 7.36 (t 1H); 7.54–7.64 (m 2H); 8.00 (s 1H); 8.66 (s 1H); Mass Spectrum: (M+H)30 460.9.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxy-6-(piperidin-4-yloxy)-quinazoline dihydrochloride ethanol | 91.8 g | C(C)O.Cl.Cl.ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC2CCNCC2)OC)C=CC1)F
reactant | Acetoxyacetyl chloride | 28 ml | C(C)(=O)OCC(=O)Cl | C4H5ClO3
catalyst | 4-(dimethylamino)pyridine | 73.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 330 ml | C(C)#N | C2H3N
product | 4-(3-Chloro-2-fluoroanilino)-6-[1-(hydroxyacetyl)piperidin-4-yloxy]-7-methoxyquinazoline | 65.8 g, 83.9% yield | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)OC2CCN(CC2)C(CO)=O)OC)C=CC1)F | C22H22ClFN4O4
